US04154962
The process according to claim 8, by which 3-isobutyl-cyclohexanone and ethyl pyruvate are condensed without solvent and the condensate formed is heated at 220°-230° C. to give p-isobutyl-hydratropic acid.

reactant | 3-isobutyl-cyclohexanone | C(C(C)C)C1CC(CCC1)=O | C10H18O
reactant | ethyl pyruvate | C(C(=O)C)(=O)OCC | C5H8O3
product | p-isobutyl-hydratropic acid | C(C(C)C)C1=CC=C(C(C(=O)O)C)C=C1 | C13H18O2
